US06821980B1
Stage b) 4-(2,4-Diamino-pyrimidin-5-ylmethyl)-6-ethoxy-4′-methoxy-biphenyl-2-ol 5-(2-Benzyloxy-6-ethoxy-4′-methoxy-biphenyl-4-ylmethyl)-pyrimidine-2,4-diamine (100 mg; 0.22 mmol) is hydrogenated in acetic acid conc. (3 ml) and ethanol (1 ml) over Pd/C 10% (25 mg). After 1 hour, the catalyst is filtered off with suction and rinsed with ethanol and the filtrate is concentrated. The residue is stirred with water (10 ml), after which the pH is adjusted to 8 by addition of an aqueous saturated sodium bicarbonate solution. The suspension is filtered with suction and the residue is washed with water and dried under a high vacuum. 51 mg (63%) 4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-4′-methoxy-biphenyl-2-ol are obtained as a light-grey powder.

reactant | 4-(2,4-Diamino-pyrimidin-5-ylmethyl)-6-ethoxy-4′-methoxy-biphenyl-2-ol 5-(2-Benzyloxy-6-ethoxy-4′-methoxy-biphenyl-4-ylmethyl)-pyrimidine-2,4-diamine | 0.22 mmol, 100 mg | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)CC=1C(=NC(=NC1)N)N)OCC)C1=CC=C(C=C1)OC.NC1=NC=C(C(=N1)N)CC=1C=C(C(=C(C1)OCC)C1=CC=C(C=C1)OC)O
reactant | ethanol | 1 ml | C(C)O | C2H6O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 25 mg | [Pd] | Pd
product | 4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-4′-methoxy-biphenyl-2-ol | 51 mg, 63% | NC1=NC=C(C(=N1)N)CC=1C=C(C(=C(C1)OCC)C1=CC=C(C=C1)OC)O | C20H22N4O3
